US04431653
A mixture of hexahydro-4-[2-(1H-imidazol-1-yl)ethyl]-1H-azepine (6.0 g, 0.031 M) and dimethylformamide dimethylacetal (33 ml) was heated at 100° C. for 4 hrs. The reaction was stripped to dryness to give hexahydro-4-[2-(1H-imidazol-1-yl)ethyl]-1H-azepine carboxaldehyde dimethylacetal. The solution of the hexahydroazepine carboxaldehyde dimethylacetal in methylene chloride (40 ml) was added to the mixture of 6-aminopenicillanic acid (5.7 g, 0.026 M) and diisopropylethylamine (3.15 ml) in methylene chloride (150 ml) at 0° C. and stirred at 0° C. for 1 hr, room temperature for 3 hrs. The solvent was removed and water (100 ml) was added. After being washed with ether, the aqueous solution, acidified to pH 3, was purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6beta)]-6-[[4-[hexahydro[2-(1H-imidazol-1 -yl)ethyl]-1H-azepin-1-yl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid 1.2 molar hydrochloride hydrate (diastereomers) (4.0 g, 32% yield).

reactant | hexahydro-4-[2-(1H-imidazol-1-yl)ethyl]-1H-azepine | 0.031 M, 6.0 g | N1(C=NC=C1)CCC1CCNCCC1 | C11H19N3
reactant | dimethylformamide dimethylacetal | 33 ml | COC(N(C)C)OC | C5H13NO2
product | hexahydro-4-[2-(1H-imidazol-1-yl)ethyl]-1H-azepine carboxaldehyde dimethylacetal | COC(C1NCCCC(C1)CCN1C=NC=C1)OC | C14H25N3O2
